US08685975B2
2-(4-(1H-pyrazol-1-yl)phenyl)-1-(4-(4-bromo-3,5-dimethoxyphenyl) oxazol-2-yl)-2-methoxyethanone was synthesized from 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide and 4-(4-bromo-3,5-dimethoxyphenyl)oxazole by a method similar to that used for Example 2 except that the amide was added to the reaction mixture at −50° C. MS: m/z 498.1 [M+H]+.

reactant | 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C14H17N3O3
reactant | 4-(4-bromo-3,5-dimethoxyphenyl)oxazole | BrC1=C(C=C(C=C1OC)C=1N=COC1)OC | C11H10BrNO3
product | 2-(4-(1H-pyrazol-1-yl)phenyl)-1-(4-(4-bromo-3,5-dimethoxyphenyl) oxazol-2-yl)-2-methoxyethanone | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)C=1OC=C(N1)C1=CC(=C(C(=C1)OC)Br)OC)OC | C23H20BrN3O5
